US04559334
To a solution of benzhydryl 7-(4-bromoacetoacetamido)-3-vinyl-3-cephem-4-carboxylate (10 g) in a mixture of methylene chloride (70 ml) and acetic acid (25 ml) was dropwise added isoamyl nitrite (3.5 ml) at -3° to -5° C. The mixture was stirred for 40 minutes at -5° C., followed by addition of acetylacetone (4 g) and stirring for 30 minutes at 5° C. To the reaction mixture was added thiourea (3 g) and after stirring for 3 hours, thereto were added dropwise ethyl acetate (70 ml) and diisopropyl ether (100 ml). The resultant precipitate was collected by filtration and dried in vacuo to give benzhydryl 7-[2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate hydrobromide (syn isomer) (11.7 g). 3 g of this product was added portionwise to a mixture of 2,2,2-trifluoroacetic acid (5 ml) and anisole (5 ml) at 5° to 7° C. After stirring for 1 hour at 5° C., the reaction mixture was added dropwise to diisopropyl ether (150 ml). The resultant precipitate was collected by filtration and dissolved in a mixture of tetrahydrofuran (10 ml) and ethyl acetate (10 ml). The organic layer was extracted with an aqueous sodium bicarbonate. The aqueous extract was washed with ethyl acetate under keeping the pH value at 5 and then adjusted to pH 2.2 with 10% hydrochloric acid. This solution was stirred for 1 hour at 0° C., and the obtained crystals were collected by filtration and dried in vacuo to give 7-[2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylic acid (syn isomer) (0.79 g).

reactant | benzhydryl 7-(4-bromoacetoacetamido)-3-vinyl-3-cephem-4-carboxylate | 10 g | BrCC(CC(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=O | C26H23BrN2O5S
reactant | isoamyl nitrite | 3.5 ml | N(=O)OCCC(C)C | C5H11NO2
reactant | acetylacetone | 4 g | C(C)(=O)CC(C)=O | C5H8O2
reactant | thiourea | 3 g | NC(=S)N | CH4N2S
reactant | diisopropyl ether | 100 ml | C(C)(C)OC(C)C | C6H14O
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 70 ml | C(C)(=O)OCC | C4H8O2
product | benzhydryl 7-[2-(2-aminothiazol-4-yl)-2-hydroxyiminoacetamido]-3-vinyl-3-cephem-4-carboxylate hydrobromide | 11.7 g | Br.NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NO | InChI=1S/C27H23N5O5S2.BrH/c1-2-15-13-38-25-20(30-23(33)19(31-36)18-14-39-27(28)29-18)24(34)32(25)21(15)26(35)37-22(16-9-5-3-6-10-16)17-11-7-4-8-12-17;/h2-12,14,20,22,25,36H,1,13H2,(H2,28,29)(H,30,33);1H/t20?,25-;/m1./s1
